US05344828
4-(2-Chlorodibenzo[b,f ][1,4]thiazepin-11-yl)-1-piperazineacetic acid
2N Aqueous sodium hydroxide solution (5 ml) was added to a solution of 2.08 g of ethyl 4-(2-chlorodibenzo[b,f][1,4]thiazepin-11-yl)-1-piperazineacetate in 21 ml of methanol. The solution was refluxed for 30 min and then concentrated. The residue was dissolved in hot water and the solution was neutralized with 0.5N hydrochloric acid. The yellowish viscous precipitates were extracted with chloroform. The chloroform layer was washed with water, dried and concentrated to give 1.89 g of pale yellow crystals, which were recrystallized from ethanol to give pale yellow crystals, mp 139°-141° C.

reactant | sodium hydroxide | 2N, 5 ml | [OH-].[Na+]
reactant | ethyl 4-(2-chlorodibenzo[b,f][1,4]thiazepin-11-yl)-1-piperazineacetate | 2.08 g | ClC=1C=CC2=C(C(=NC3=C(S2)C=CC=C3)N3CCN(CC3)CC(=O)OCC)C1 | C21H22ClN3O2S
solvent | methanol | 21 ml | CO | CH4O
product | 4-(2-Chlorodibenzo[b,f ][1,4]thiazepin-11-yl)-1-piperazineacetic acid | 1.89 g | ClC=1C=CC2=C(C(=NC3=C(S2)C=CC=C3)N3CCN(CC3)CC(=O)O)C1 | C19H18ClN3O2S
